US05756510
3-Allyloxybenzamide (Compound NU1031)
To 3-hydroxybenzamide (274 mg; 2.0 mM) under a nitrogen atmosphere was added potassium carbonate (276 mg; 21.0 mM). This was dissolved in acetonitrile (20 ml) containing allyl bromide (169 ul; 2.0 mM). The mixture was refluxed for 5 hours, and the reaction followed by T.L.C.: 10% MeOH: 90% CH2Cl2. The excess solvent was then removed under vacuum, the organics extracted into dichloromethane, dried, and the solvent removed, to yield a white solid. This was recrystallised from hot water to produce a white "needle" solid (63%) as the final product.

reactant | 3-hydroxybenzamide | 2.0 mM, 274 mg | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | potassium carbonate | 21.0 mM, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 2.0 mM, 169 ul | C(C=C)Br | C3H5Br
reactant | MeOH | CO | CH4O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-Allyloxybenzamide | C(C=C)OC=1C=C(C(=O)N)C=CC1 | C10H11NO2
